US05885999
c) 4-(2-Methoxyphenyl)piperidine Hydrochloride
Tetrakis(triphenylphosphine)palladium (0) (100 mg) was added to a degassed mixture of 1-t-butoxycarbonyl-4-trifluoromethanesulfonyloxy-1,2,3,6-tetrahydropyridine (810 mg), 2-methoxyphenylboronic acid (519 mg), lithium chloride (405 mg) and aqueous sodium carbonate (2N, 3.5 mL) in 1,2-dimethoxyethane (20 mL). The resulting solution was heated under reflux for 3 h., cooled to room temperature and the solvent was evaporated under reduced pressure. The residue was partitioned between ethyl acetate and aqueous sodium carbonate (2M) and the organic layer was separated, dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was dissolved in ethanol, palladium on carbon (10%) was added and the mixture was shaken under hydrogen (50 psi.) for 3 h. The mixture was filtered through Hyflo and the solvent was evaporated under reduced pressure. The residue was purified by MPLC on silica gel, eluting with EtOAc/Hexane (5:95) and the residue was deprotected with ethanolic hydrogen chloride to give the title compound as a colorless solid (340 mg), δH (d6 -DMSO), 1.54-1.59 (2H, m), 1.77-1.81 (2H, m), 2.77 (2H, td, J 11.0, 1.0 Hz), 3.07 (1H, td, J 11.0, 1.0 Hz), 3.11 (2H, br m), 3.82 (3H, s), 6.85 (1H, d, J 6.0 Hz), 6.93 (1H, t, J 6.0 Hz), 7.15-7.21 (2H, m).

reactant | 1-t-butoxycarbonyl-4-trifluoromethanesulfonyloxy-1,2,3,6-tetrahydropyridine | 810 mg | C(C)(C)(C)OC(=O)N1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C11H16F3NO5S
reactant | 2-methoxyphenylboronic acid | 519 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | lithium chloride | 405 mg | [Cl-].[Li+]
reactant | sodium carbonate | 2N, 3.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
catalyst | Tetrakis(triphenylphosphine)palladium | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-Methoxyphenyl)piperidine Hydrochloride | 340 mg | Cl.COC1=C(C=CC=C1)C1CCNCC1 | InChI=1S/C12H17NO.ClH/c1-14-12-5-3-2-4-11(12)10-6-8-13-9-7-10;/h2-5,10,13H,6-9H2,1H3;1H
